US05610144
The operation is carried out in a fashion similar to that described in Example 41, but starting from 1.37 g of 2-trimethylsilylethyl (2R,4R)-3-{3-{2-[4-tert-butoxycarbonyl-2-(2-chloro-6-fluorophenyl)-3-thiazolidinyl]-2-oxoethyl}ureido}benzoate and 4.3 cm3 of a 1M solution of tetrabutylammonium fluoride. The crude product is dissolved in 10 cm3 of a 0.5N aqueous sodium hydroxide solution and washed with 2 times 20 cm3 of ethyl acetate. The aqueous phase is brought to a pH of 2 by addition of a 1N aqueous sulphuric acid solution. The product precipitated is separated by filtration, washed with 2 times 5 cm3 of distilled water and dried in air. 0.12 g of (2R,4R)-3-{3-{2-[4-tert-butoxycarbonyl-2-(2-chloro-6-fluorophenyl)-3-thiazolidinyl]-2-oxoethyl}ureido}benzoic acid, melting at 148° C., is thus obtained ([α]D20 =+3.1°±0.8° (C=0.518%; DMF), [proton NMR (250 MHz, DMSO D6 d in ppm, J in Hz), 2 rotamers at room temperature, peak coalescence at 120° C., characteristic chemical shifts at 120° C.: 1.5 (s, 9H, --C(CH3)3); 3.48 (dd, J=12.5 and 6.5. 1H, of S--CH2); 3.62 (dd, J=12.5 and 5, 1H, the other H of S--CH2 --); 3.96 (dd, J=17.5 and 5, 1H, of N--COCH2 --N); 4.18 (dd, J=17.5 and 5.5, 1H, the other H of N--COCH2 --N); 5.11 (dd, J=6.5 and 5, N--CH--COO); 6.24 (broad, 1H, --NHCO--); 6.01 (s, 1H, S--CH--N); 7.05 to 7.65 (m, 6H, aromatic); 7.98 (bs, 1H, in position 2 on CO--NH--Ph--); 8.66 (broad, 1H, ArNHCO--)], [infrared spectrum (KBr), characteristic bands in cm-1 : 3380, 2980, 2930, 2700 to 2250 (broad band), 1715, 1695, 1655, 1605, 1590, 1560, 1490, 1460, 1370, 1150, 785, 760, 680].

reactant | 2-trimethylsilylethyl (2R,4R)-3-{3-{2-[4-tert-butoxycarbonyl-2-(2-chloro-6-fluorophenyl)-3-thiazolidinyl]-2-oxoethyl}ureido}benzoate | 1.37 g | C(C)(C)(C)OC(=O)[C@H]1N([C@H](SC1)C1=C(C=CC=C1F)Cl)C(CNC(NC=1C=C(C(=O)OCC[Si](C)(C)C)C=CC1)=O)=O | C29H37ClFN3O6SSi
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | sodium hydroxide | 0.5N | [OH-].[Na+]
product | (2R,4R)-3-{3-{2-[4-tert-butoxycarbonyl-2-(2-chloro-6-fluorophenyl)-3-thiazolidinyl]-2-oxoethyl}ureido}benzoic acid | 0.12 g | C(C)(C)(C)OC(=O)[C@H]1N([C@H](SC1)C1=C(C=CC=C1F)Cl)C(CNC(NC=1C=C(C(=O)O)C=CC1)=O)=O | C24H25ClFN3O6S
